US07288674B2
After a mixture of 59.0 g of the above-obtained 2-naphthylglycine methyl ester hydrochloride and 1,180 mL of dichloromethane was cooled, 69 mL of triethylamine was added dropwise to the mixture at an inner temperature of −35 to −38° C. 38 mL of Trifluoroacetic anhydride was further added dropwise thereto at an inner temperature of −40 to −42° C. over 70 minutes. The mixture was further stirred at the same temperature for 1 hour to effect reaction and then, the reaction mixture was allowed to warm to 0° C. A mixture of 280 mL of cold water and 4 mL of concentrated hydrochloric acid was added to the reaction mixture and extraction treatment was carried out with 500 mL of dichloromethane. The organic layer obtained was washed with 280 mL of cold water. The organic layer obtained was dried over dehydrated sodium sulfate and then concentrated and the precipitated crystals were filtered. After washed with cold dichloromethane/n-hexane=1/1 (by volume), the crystals were dried at an inner temperature of 60° C. under reduced pressure to obtain 55.5 g of white N-(trifluoroacetyl)-2-naphthylglycine methyl ester (yield: 76%).

reactant | 2-naphthylglycine methyl ester hydrochloride | 59.0 g | Cl.COC(CNC1=CC2=CC=CC=C2C=C1)=O
reactant | Trifluoroacetic anhydride | 38 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 280 mL | O | H2O
solvent | triethylamine | 69 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1,180 mL | ClCCl | CH2Cl2
product | N-(trifluoroacetyl)-2-naphthylglycine methyl ester | 55.5 g, yield: 76% | COC(CN(C(C(F)(F)F)=O)C1=CC2=CC=CC=C2C=C1)=O | C15H12F3NO3
